### PR TITLE
AND gadgets

### PR DESCRIPTION
**Pull request by mitschabaude**
* Single-byte-level AND gadget which is based on an XOR lookup and an identity relating AND and XOR
* 64-bit AND including proofs
* Finish 64-bit XOR soundness proof

### CODE REVIEW

File: Clean/Gadgets/And/And8.lean
Comment (mitschabaude) [inline Clean/Gadgets/And/And8.lean:1]: the proofs here were surprisingly hard!

File: Clean/Gadgets/Xor/ByteXorTable.lean
Comment (mitschabaude) [inline Clean/Gadgets/Xor/ByteXorTable.lean:1]: I refactored a bit here: Moved byte helpers to the new `Bitwise` utils, and consistently use `^^^` instead of `Nat.xor`

File: Clean/Utils/Bitwise.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+
+lemma from_byte_cast_eq {z: F p} (z_lt : z.val < 256) : from_byte z.cast = z := by
+  simp only [from_byte]
+  have : (z.cast : Fin 256).val = z.val := ZMod.val_cast_eq_val_of_lt z_lt
+  simp only [this]
+  apply FieldUtils.nat_to_field_of_val_eq_iff
+end
+end Bytes
+
+namespace Bitwise
```
Comment (mitschabaude) [inline Clean/Utils/Bitwise.lean:5]: these are a couple new lemmas about bitwise operations needed for the new soundness proofs

File: Clean/Gadgets/And/And8.lean [hunk 2]
```diff
@@ -0,0 +1,171 @@
...
+-- AND / XOR identity that justifies the circuit
+
+theorem and_times_two_add_xor {x y : ℕ} (hx : x < 256) (hy : y < 256) : 2 * (x &&& y) + (x ^^^ y) = x + y := by
+  -- proof strategy: prove a UInt16 version of the identity using `bv_decide`,
+  -- and show that the UInt16 identity is the same as the Nat version since everything is small enough
+  let x16 := x.toUInt16
+  let y16 := y.toUInt16
+  have h_u16 : (2 * (x16 &&& y16) + (x16 ^^^ y16)).toNat = (x16 + y16).toNat := by
+    apply congrArg UInt16.toNat
+    bv_decide
```
Comment (mitschabaude) [inline Clean/Gadgets/And/And8.lean:46]: the `bv_decide` tactic is super fast and powerful if applicable

File: Clean/Utils/Bitwise.lean [hunk 3]
```diff
@@ -0,0 +1,102 @@
...
+
+theorem eq_of_mod_eq_and_div_eq (m : ℕ) {x y : ℕ} (mod : x % m = y % m) (div : x / m = y / m) : x = y := by
+  rw [←Nat.mod_add_div x m, ←Nat.mod_add_div y m, mod, div]
+
+theorem xor_eq_add {x : ℕ} (n : ℕ) (hx : x < 2^n) (y : ℕ) : x + 2^n * y = x ^^^ 2^n * y := by
+  apply Nat.eq_of_testBit_eq
```
Comment (mitschabaude) [inline Clean/Utils/Bitwise.lean:11]: this is a generally useful strategy for proving identities of bitwise operators: show the identity holds for every bit

File: Clean/Gadgets/And/And8.lean [hunk 4]
```diff
@@ -0,0 +1,171 @@
...
+-- some helper lemmas about 2
+lemma val_two : (2 : F p).val = 2 := val_lt_p 2 (by linarith [p_large_enough.elim])
+
+lemma two_non_zero : (2 : F p) ≠ 0 := by
+  apply_fun ZMod.val
+  rw [val_two, ZMod.val_zero]
+  trivial
+
+-- TODO where is this in mathlib? seems like an obvious theorem to have
+theorem mul_left_inj {F: Type} [Field F] : ∀ {x y z : F}, x ≠ 0 → x * y = x * z → y = z := by
```
Comment (gio54321) [inline Clean/Gadgets/And/And8.lean]: Indeed that's strange...
There is [Int.mul_eq_mul_left_iff](https://leanprover-community.github.io/mathlib4_docs/Init/Data/Int/Lemmas.html#Int.mul_eq_mul_left_iff) but I found it only for integers and naturals
Should we make a PR on mathlib?

File: Clean/Utils/Bitwise.lean (hunk 3 above)
Comment (gio54321) [reply Clean/Utils/Bitwise.lean:11]: This is very nice!

File: Clean/Utils/Bitwise.lean [hunk 5]
```diff
@@ -0,0 +1,102 @@
+import Mathlib.Tactic
+import Mathlib.Algebra.Field.ZMod
+import Clean.Utils.Field
+
+namespace Bytes
```
Comment (gio54321) [inline Clean/Utils/Bitwise.lean]: Maybe we should move a bunch of lemmas about bytes which are currently in `Utils/Field` in this new namespace (or equivalently move these lemmas in `Utils/Field`)

**Review by gio54321 — APPROVED** [review]
Very nice!
Left only a few minor comments

File: Clean/Gadgets/And/And8.lean (hunk 4 above)
Comment (mitschabaude) [reply Clean/Gadgets/And/And8.lean]: found it, using [Moogle](https://www.moogle.ai/search/raw?q=In%20a%20field%2C%20multiplication%20from%20the%20left%20is%20injective%2C%20i.e.%20x%20!%3D%200%20-%3E%20x%20*%20y%20%3D%20x%20*%20z%20-%3E%20y%20%3D%20zWhere%20is%20this%20theorem%20in%20Mathlib%3F) : https://github.com/Verified-zkEVM/clean/pull/73/commits/ed4db779a3aa3ad97563706cdb9ffd5707ccb7a6

File: Clean/Utils/Bitwise.lean (hunk 5 above)
Comment (mitschabaude) [reply Clean/Utils/Bitwise.lean]: good point, I moved everything to `Utils/Field` in a new namespace `ByteUtils`
